US09079866B2
5,5′-(3′-Fluorobiphenyl-2,4′-diyl)dipyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 838 using 5-bromopyrimidin-2-amine in Step A and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine in Step B. MS (ESI): mass calcd. for C20H15FN6, 358.13; m/z found, 359.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.57 (s, 2H), 8.16 (d, J=2.0, 2H), 7.57-7.45 (m, 5H), 7.14 (t, J=10.3, 2H).

reactant | 5-bromopyrimidin-2-amine | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5,5′-(3′-Fluorobiphenyl-2,4′-diyl)dipyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)C=1C=NC(=NC1)N | C20H15FN6
